### PR TITLE
[Merged by Bors] - chore(Topology/Instances/AddCircle): golf and little lemmas

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Instances/AddCircle.lean [hunk 1]
```diff
@@ -343,6 +343,10 @@ theorem homeomorphAddCircle_symm_apply_mk (hp : p ≠ 0) (hq : q ≠ 0) (x : 
   rfl
 end
 
+lemma div_mul_period_eq_nsmul (m n : ℕ) :
```
Comment (eric-wieser) [inline Mathlib/Topology/Instances/AddCircle.lean:346]: I guess we should have the `Int` version of this as well?

File: Mathlib/Topology/Instances/AddCircle.lean [hunk 2]
```diff
@@ -343,6 +343,10 @@ theorem homeomorphAddCircle_symm_apply_mk (hp : p ≠ 0) (hq : q ≠ 0) (x : 
...
+    (↑(↑m / ↑n * p) : AddCircle p) = m • ((p / n : 𝕜) : AddCircle p) := by
+  rw [mul_comm_div, ← nsmul_eq_mul, coe_nsmul]
```
Comment (alreadydone) [inline Mathlib/Topology/Instances/AddCircle.lean:348]:
```suggestion
lemma div_mul_period_eq_nsmul (r : 𝕜) (m : ℕ) :
    (↑(↑m / q * r) : AddCircle p) = m • (r / q : AddCircle p) := by
  rw [mul_comm_div, ← nsmul_eq_mul, coe_nsmul]

lemma div_mul_period_eq_zsmul (r : 𝕜) (m : ℤ) :
    (↑(↑m / q * r) : AddCircle p) = m • (r / q : AddCircle p) := by
  rw [mul_comm_div, ← zsmul_eq_mul, coe_zsmul]
```

File: Mathlib/Topology/Instances/AddCircle.lean [hunk 3]
```diff
@@ -384,7 +388,7 @@ theorem addOrderOf_period_div {n : ℕ} (h : 0 < n) : addOrderOf ((p / n : 𝕜)
 variable (p) in
 theorem gcd_mul_addOrderOf_div_eq {n : ℕ} (m : ℕ) (hn : 0 < n) :
     m.gcd n * addOrderOf (↑(↑m / ↑n * p) : AddCircle p) = n := by
-  rw [mul_comm_div, ← nsmul_eq_mul, coe_nsmul, IsOfFinAddOrder.addOrderOf_nsmul]
+  rw [div_mul_period_eq_nsmul, IsOfFinAddOrder.addOrderOf_nsmul]
```
Comment (alreadydone) [inline Mathlib/Topology/Instances/AddCircle.lean:391]:
```suggestion
  rw [natCast_div_mul_eq_nsmul, IsOfFinAddOrder.addOrderOf_nsmul]
```

File: Mathlib/Topology/Instances/AddCircle.lean [hunk 4]
```diff
@@ -451,21 +459,11 @@ def setAddOrderOfEquiv {n : ℕ} (hn : 0 < n) :
...
-          obtain ⟨m, hm⟩ := h
-          rw [← mul_div_right_comm, eq_div_iff, mul_comm, ← zsmul_eq_mul, mul_smul_comm, ←
-            nsmul_eq_mul, ← natCast_zsmul, smul_smul,
-            zsmul_left_inj hp.out, mul_comm] at hm
-          swap
-          · exact Nat.cast_ne_zero.2 hn.ne'
-          rw [← @Nat.cast_inj ℤ, ← sub_eq_zero]
-          refine Int.eq_zero_of_abs_lt_dvd ⟨_, hm.symm⟩ (abs_sub_lt_iff.2 ⟨?_, ?_⟩) <;>
-            apply (Int.sub_le_self _ <| Nat.cast_nonneg _).trans_lt (Nat.cast_lt.2 _)
+        · simp_rw [Subtype.mk_eq_mk, div_mul_period_eq_nsmul] at h
```
Comment (alreadydone) [inline Mathlib/Topology/Instances/AddCircle.lean:462]:
```suggestion
        · simp_rw [Subtype.mk_eq_mk, natCast_div_mul_eq_nsmul] at h
```

File: Mathlib/Topology/Instances/AddCircle.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Topology/Instances/AddCircle.lean]: Did you mean to apply this?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
